US08629168B2
4-[7-(3,5-Difluoro-4-piperazin-1-ylmethyl-phenyl)-benzooxazol-2-ylamino]-N,N-diethyl-2-methyl-benzamide
A mixture of 0.146 g (0.224 mmol) 4-{4-[2-(4-diethylcarbamoyl-3-methyl-phenylamino)-benzooxazol-7-yl]-2,6-difluoro-benzyl}-piperazine-1-carboxylic acid tert-butyl ester, 2 ml trifluoroacetic acid and 10 ml dichloromethane is stirred at room temperature for 2 h. Then the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, 100% EtOAc=>EtOAc:MeOH=1:1+1% triethylamine) to afford 0.04 g of the title compound as a white solid.

reactant | 4-{4-[2-(4-diethylcarbamoyl-3-methyl-phenylamino)-benzooxazol-7-yl]-2,6-difluoro-benzyl}-piperazine-1-carboxylic acid tert-butyl ester | 0.224 mmol, 0.146 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CC1=C(C=C(C=C1F)C1=CC=CC=2N=C(OC21)NC2=CC(=C(C=C2)C(N(CC)CC)=O)C)F | C35H41F2N5O4
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-[7-(3,5-Difluoro-4-piperazin-1-ylmethyl-phenyl)-benzooxazol-2-ylamino]-N,N-diethyl-2-methyl-benzamide | 0.04 g | FC=1C=C(C=C(C1CN1CCNCC1)F)C1=CC=CC=2N=C(OC21)NC2=CC(=C(C(=O)N(CC)CC)C=C2)C | C30H33F2N5O2
